US08309545B2
6a) 5-Acetyl-6-(3-bromopropoxy)-4,7-dimethoxybenzofuran
Khellinone (400 mg, 1.7 mmol, 0.3 M), K2CO3 (3 eqs) and 1,3-dibromopropane (3 eqs) were reacted according to General Procedure A. The crude product was purified by flash chromatography, eluting with ethyl acetate:petroleum ether (15:85) to afford the title compound as a clear oil (530 mg, 88%). 1H NMR (300 MHz, CDCl3): δ 2.24 (quintet, J=6.2 Hz, 2H), 2.51 (s, 3H), 3.57 (t, J=6.6 Hz, 2H), 3.97 (s, 3H), 4.07 (s, 3H), 4.19 (t, J=6.4 Hz, 2H), 6.86 (d, J=2.2 Hz, 1H), 7.56 (d, J=2.2 Hz, 1H). MS (ES+) m/z 356.8/358.8 (M+H+).

reactant | Khellinone | 1.7 mmol, 0.3 M, 400 mg | CC(=O)C1=C(C2=C(C(=C1O)OC)OC=C2)OC | C12H12O5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 5-Acetyl-6-(3-bromopropoxy)-4,7-dimethoxybenzofuran | 530 mg, 88% | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)OCCCBr | C15H17BrO5
